US09328138B2
Step 1: tert-butyl ({1-[(2-methoxyethoxy)methyl]cyclopropyl}sulfonyl)carbamate
BuLi 2.5 M in hexanes (7.53 ml) was added dropwise to the solution of tert-butyl (cyclopropylsulfonyl)carbamate (1.81 g) in THF (40 ml) at −78° C. This solution was stirred at −78° C. for 1 hour then 2-methoxyethoxymethyl chloride (1.85 ml) was added dropwise. The reaction was allowed to warm to room temperature and was stirred for 3 days. The solvent was evaporated under reduced pressure and the residue was diluted with ethyl acetate. At this point, HCl (1 M) was added and the mixture was extracted with ethyl acetate (3×). The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and the solvent was evaporated under reduced pressure. The residue was purified by flash chromatography (ISCO, 0 to 100% ethyl acetate in hexanes) to give the desired product (0.630 g) as a clear oil. LRMS (ES+) m/z 332.2 (M+Na)+.

reactant | BuLi | 2.5 M | [Li]CCCC
reactant | tert-butyl (cyclopropylsulfonyl)carbamate | 1.81 g | C1(CC1)S(=O)(=O)NC(OC(C)(C)C)=O | C8H15NO4S
reactant | 2-methoxyethoxymethyl chloride | 1.85 ml | COCCOCCl | C4H9ClO2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | tert-butyl ({1-[(2-methoxyethoxy)methyl]cyclopropyl}sulfonyl)carbamate | 0.630 g | COCCOCC1(CC1)S(=O)(=O)NC(OC(C)(C)C)=O | C12H23NO6S
